US06458772B1
a) 4-methoxybenzyl 2-hydroxypropionate
To a stirred solution of DL-2 hydroxypropionic acid (9.0 g, 100 mmole) in 100 ml dry DMP was added potassium tert-butoxide (12.34 g, 110 mmole) and the mixture was stirred for one hour at 60° C. 4-methoxybenzyl chloride was (18.8 g 120 mmole) was added and the mixture was stirred for eight hours at 60° C. The mixture was evaporated under reduced pressure and 250 ml ethyl acatate was added The organic phase was washed four times with water. The organic phase was dried with sodium sulfate and concentrated in vacuo. Yield: 16.8 g

reactant | hydroxypropionic acid | 100 mmole, 9.0 g | OC(C(=O)O)C | C3H6O3
reactant | potassium tert-butoxide | 110 mmole, 12.34 g | CC(C)([O-])C.[K+]
reactant | 4-methoxybenzyl chloride | COC1=CC=C(CCl)C=C1 | C8H9ClO
product | 4-methoxybenzyl 2-hydroxypropionate | OC(C(=O)OCC1=CC=C(C=C1)OC)C | C11H14O4
